US04515788
To a solution of benzhydryl 2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetate (syn isomer) (2.2 g) and anisole (2.2 ml) in methylene chloride (22 ml) was added trifluoroacetic acid (4 ml) at ambient temperature and the mixture was stirred at the same temperature for 25 minutes. To the reaction mixture was added ethyl acetate and the solution was washed with water. To the separated organic layer was added water and the mixture was adjusted to pH 7.5 with 20% aqueous solution of sodium carbonate. The separated aqueous layer was acidified to pH 2.0 with 10% hydrochloric acid. The acidified solution was saturated with sodium chloride and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, and dried over magnesium sulfate. The solution was evaporated and the residue was pulverized with diisopropyl ether and n-hexane to give 2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetic acid (syn isomer) (1.07 g), mp. 136°-139° C.

reactant | benzhydryl 2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetate | 2.2 g | C(C)(C)(C)OC(=O)CON=C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=1N=CSC1 | C24H24N2O5S
reactant | anisole | 2.2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 22 ml | C(Cl)Cl | CH2Cl2
product | 2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetic acid | 1.07 g | C(C)(C)(C)OC(=O)CON=C(C(=O)O)C=1N=CSC1 | C11H14N2O5S
